US04640916
By a process similar to that in Reference Example 13-(2), 2-(4-hydroxybutyl)-2H-1,4-benzothiazin-3(4H)-one was allowed to react with thionyl chloride to obtain 2-(4-chlorobutyl)-2H-1,4-benzothiazin-3(4H)-one. The yield was 59.0%. m.p. 111°-112° C. (recrystallized from ethyl acetate-hexane).

reactant | 2-(4-hydroxybutyl)-2H-1,4-benzothiazin-3(4H)-one | OCCCCC1SC2=C(NC1=O)C=CC=C2 | C12H15NO2S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-(4-chlorobutyl)-2H-1,4-benzothiazin-3(4H)-one | yield was 59.0% | ClCCCCC1SC2=C(NC1=O)C=CC=C2 | C12H14ClNOS
